US06900227B2
Preparation of 2,2-bis-(3,5-difluoro-phenyl)-benzo[1,3]dioxole-5-carboxylic acid
267 mg 2,2-bis-(3,5-difluoro-phenyl)-benzo[1,3]dioxole-5-carboxylic acid ethyl ester, 3.8 mL ethyl alcohol and 0.96 mL 1N NaOH were stirred at room temperature for 6 h. The solvent was evaporated and the residue worked up with ethyl acetate, diluted hydrochloric acid and water. Purification on silica gel afforded 204 mg white crystals, m.p.: 96° C.; MS: 389 ([M−H]−).

reactant | 2,2-bis-(3,5-difluoro-phenyl)-benzo[1,3]dioxole-5-carboxylic acid ethyl ester | 267 mg | C(C)OC(=O)C1=CC2=C(OC(O2)(C2=CC(=CC(=C2)F)F)C2=CC(=CC(=C2)F)F)C=C1 | C22H14F4O4
reactant | NaOH | 1N, 0.96 mL | [OH-].[Na+]
solvent | ethyl alcohol | 3.8 mL | C(C)O | C2H6O
product | 2,2-bis-(3,5-difluoro-phenyl)-benzo[1,3]dioxole-5-carboxylic acid | 204 mg | FC=1C=C(C=C(C1)F)C1(OC2=C(O1)C=CC(=C2)C(=O)O)C2=CC(=CC(=C2)F)F | C20H10F4O4
